US04267190
B. 3-(4-FLuorophenyl)-2-methyl-2-propen-1-ol
To a solution of 113 g (0.69 mole) of 3-(4-fluorophenyl)-2-methyl-2-propen-1-al in 800 ml ethanol at 10° C. was added in portions 13.1 g (0.345 mole) of sodium borohydride. After the addition was complete, the reaction mixture was stirred at room temperature overnight. The mixture was cooled in an ice bath while 350 ml of 1 N hydrochloric acid was added dropwise to give a final pH of ~7. The mixture was diluted with 500 ml water and extracted three times with methylene chloride. The organic extracts were dried and concentrated and the residue distilled to give 56.1 g (49%) of colorless liquid, b.p. 68°-70° C. (0.15 mm).

reactant | 3-(4-fluorophenyl)-2-methyl-2-propen-1-al | 0.69 mole, 113 g | FC1=CC=C(C=C1)C=C(C=O)C | C10H9FO
reactant | sodium borohydride | 0.345 mole, 13.1 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1 N, 350 ml | Cl | ClH
solvent | ethanol | 800 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | 3-(4-FLuorophenyl)-2-methyl-2-propen-1-ol | 56.1 g, 49% | FC1=CC=C(C=C1)C=C(CO)C | C10H11FO
